US06242493B1
Step 1: Ethyl (E)-3-(3-methyl-2-pyridyl)-2-propenoate
To a solution of 2-bromo-3-methylpyridine (10.36 g; 60.2 mmol) in 120 mL of THF at −100° C. was added dropwise a 1.6 M solution of n-BuLi (65.6 mmol). After 20 min of stirring at that temperature, 1-formylpiperidine (7.65 g) in 10 mL of THF was added and the solution was warmed to r.t.. After 30 min of stirring at r.t., triethyl phosphonoacetate (13.7 mL; 69.1 mmol) was added dropwise below 30° C. After 1 h of stirring, the mixture was quenched with NH4OAc (25%) and extracted with EtOAc. The solvent was removed and the crude oil was purified by silica gel chromatography (25% EtOAc in hexane) to yield 10.32 g of the title compound.

reactant | 2-bromo-3-methylpyridine | 60.2 mmol, 10.36 g | BrC1=NC=CC=C1C | C6H6BrN
reactant | n-BuLi | 65.6 mmol | [Li]CCCC
reactant | 1-formylpiperidine | 7.65 g | C(=O)N1CCCCC1 | C6H11NO
reactant | THF | 120 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl (E)-3-(3-methyl-2-pyridyl)-2-propenoate | 10.32 g | CC=1C(=NC=CC1)/C=C/C(=O)OCC | C11H13NO2
